US07994163B2
Evaporate a solution of 2-pyridine methanethiol (2.5 mL, 10% in EtOH) in vacuo to obtain neat 2-pyridine methanethiol (250 mg). Immediately dissolve 2-pyridine methanethiol (230 mg, 1.84 mmol) in anhydrous DMF (5 mL) under an atmosphere of nitrogen. Add sodium hydride (100 mg, 2.5 mmol, 60% dispersion in mineral oil) and stir for 10 min. Add a solution of 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (550 mg, 1.67 mmol) in anhydrous DMF (1 mL) and stir under nitrogen for 2 h. Quench reaction by slow addition of water (10 mL), dilute up to 150 mL with water and extract with DCM (3×50 mL). Wash the combined organic extracts with brine, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel (40 g) eluting with hexane/EtOAc (9:1 to 1:1 gradient over 60 min, 40 mL/min) to obtain 3-tert-butoxycarbonyl-7-chloro-6-(pyridin-2-ylmethylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (275 mg, 40%) as a light yellow syrup.

reactant | 2-pyridine methanethiol | 1.84 mmol, 230 mg | N1=C(C=CC=C1)CS | C6H7NS
reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.67 mmol, 550 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-tert-butoxycarbonyl-7-chloro-6-(pyridin-2-ylmethylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 275 mg, 40% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSCC2=NC=CC=C2 | C22H27ClN2O2S
